US04139621
1-(3,4,5-Trichlorophenyl)piperazine hydrochloride
1-(3,4,5-Trichlorophenyl)-4-ethoxycarbonylpiperazine (12.3g) was refluxed with 48% hydrobromic acid (100 ml) overnight. The reaction was cooled, water added followed by aqueous sodium hydroxide solution (600 ml; 10%). The product was extracted into ether (3 × 100 ml), the ether extracts combined, washed with water (3 × 100 ml) till neutral, dried (anh. Na2SO4) and evaporated giving a brown oil which soon solidified (10.14g). The free base was converted to the hydrochloride (9.42g) by dissolving in dry ethanol and adding ethereal HCl till the hydrochloride precipitated out.

reactant | 1-(3,4,5-Trichlorophenyl)-4-ethoxycarbonylpiperazine | 12.3g | ClC=1C=C(C=C(C1Cl)Cl)N1CCN(CC1)C(=O)OCC | C13H15Cl3N2O2
reactant | hydrobromic acid | 100 ml | Br | BrH
reactant | sodium hydroxide | 600 ml | [OH-].[Na+]
reactant | hydrochloride | 9.42g | Cl | ClH
solvent | ethanol | C(C)O | C2H6O
solvent | water | O | H2O
product | 1-(3,4,5-Trichlorophenyl)piperazine hydrochloride | Cl.ClC=1C=C(C=C(C1Cl)Cl)N1CCNCC1 | InChI=1S/C10H11Cl3N2.ClH/c11-8-5-7(6-9(12)10(8)13)15-3-1-14-2-4-15;/h5-6,14H,1-4H2;1H
